US07608679B2
Preparation of 2,5-bis(4-chlorobenzoyl)terephthalic acid
A mixture of 497.6 grams (3.732 moles, 4.2 eq) of aluminum chloride, 2000 grams (17.77 moles, 20 eq) of chlorobenzene, and 193.8 grams (0.8885 moles, 1 eq) of benzene-1,2,4,5-tetracarboxylic acid dianhydride (pyromellitic dianhydride) was stirred and heat to 65° C. for 3 hrs. The mixture was cooled to room temperature while stirring overnight. This mixture was slowly added to a mixture of 1048 grams of 12M hydrochloric acid and stirred for one hour. Six liters of water was added and the organic layer was separated. The organic layer was washed with water until the water layer had a pH of greater than 1. To the organic layer was added 1429 mL of ethyl acetate, and 400 mL THF and the aqueous phase was separated and the organic phase was washed with 500 mL saturated NaCl and split. The organic phase was dried with magnesium sulfate and the solvent removed in vacuum to give 287.9 grams. This material was heated with three liters of ethyl acetate at 75° C. for five hours and then cooled. The solid was collected and air dried to give 95.73 grams of the desired product. 1H NMR (400 MHz, DMSO-d6): δ7.951 (s, 2H), 7.748 (d, J=8.60 Hz, 4H), 7.58 (d, J=8.60 Hz, 4H).

reactant | aluminum chloride | 3.732 moles, 497.6 grams, 4.2 eq | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chlorobenzene | 17.77 moles, 2000 grams, 20 eq | ClC1=CC=CC=C1 | C6H5Cl
reactant | benzene-1,2,4,5-tetracarboxylic acid dianhydride | 0.8885 moles, 193.8 grams, 1 eq | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O | C10H2O6
reactant | hydrochloric acid | 12M, 1048 grams | Cl | ClH
solvent | ethyl acetate | three liters | C(C)(=O)OCC | C4H8O2
solvent | water | Six liters | O | H2O
product | 2,5-bis(4-chlorobenzoyl)terephthalic acid | 95.73 grams | ClC1=CC=C(C(=O)C2=C(C(=O)O)C=C(C(=C2)C(=O)O)C(C2=CC=C(C=C2)Cl)=O)C=C1 | C22H12Cl2O6
